US05610303
(E)-4-[3-(piperidin-4-yl)propenoyl]nitrobenzene
3 ml of trifluoroacetic acid was added to 2.52 g of (E)-4-[3-(1-t-butoxycarbonylpiperidin-4-yl)propenoyl]nitrobenzene dissolved in 20 ml of methylene chloride, and the mixture was stirred at room temperature for 3 hours. Subsequently, 7 ml of trifluoroacetic acid was further added to the mixture, and the mixture was stirred for 3 hours. Then, the solvent was removed by distillation, and a saturated sodium hydrogen carbonate solution was added to the residue. After the mixture was extracted with ethyl acetate, the extract was dried over anhydrous sodium sulfate and condensed. The obtained solid was washed with methylene chloride to obtain 0.7 g of the title compound as pale yellow powder.

reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (E)-4-[3-(1-t-butoxycarbonylpiperidin-4-yl)propenoyl]nitrobenzene | 2.52 g | C(C)(C)(C)OC(=O)N1CCC(CC1)/C=C/C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C19H24N2O5
reactant | trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (E)-4-[3-(piperidin-4-yl)propenoyl]nitrobenzene | 0.7 g | N1CCC(CC1)/C=C/C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H16N2O3
